US07700552B2
4-isopropylthiazole-2-carboxylic acid (2-carbamoyl-5-methoxy-phenyl)-amide (47)
To a cooled solution of 4-methoxy-2-aminobenzamide (5.6 g, 33.7 mmol), 4-isopropylthiazole-2-carboxylic acid (7.1 g, 42 mmol) and Hobt-hydrate (6.4 g, 42 mmol) in DMF (150 ml) was added EDAC (8.6 g, 45 mmol) and TEA (6.4 ml, 45 mmol) and the mixture was stirred overnight at room temperature. A 2.5% aqueous solution of citric acid (600 ml) was added and the mixture was extracted three times with ethyl acetate. The organic phase was washed with brine and saturated sodium hydrogencarbonate. The solution was dried over sodium sulphate and evaporated under reduced pressure. Yield: 9.0 g, 91%.

reactant | 4-methoxy-2-aminobenzamide | 33.7 mmol, 5.6 g | COC1=CC(=C(C(=O)N)C=C1)N | C8H10N2O2
reactant | 4-isopropylthiazole-2-carboxylic acid | 42 mmol, 7.1 g | C(C)(C)C=1N=C(SC1)C(=O)O | C7H9NO2S
reactant | EDAC | 45 mmol, 8.6 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | citric acid | 600 ml | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-isopropylthiazole-2-carboxylic acid (2-carbamoyl-5-methoxy-phenyl)-amide | C(N)(=O)C1=C(C=C(C=C1)OC)NC(=O)C=1SC=C(N1)C(C)C | C15H17N3O3S
